US08420052B2
Tetrakis(triphenylphosphine) palladium(0) (0.364 g, 0.315 mmol) was added to a solution containing 2-chloro-4-nitropyridine (1 g, 6.31 mmol) and Tributyl(1-ethoxyvinyl)tin (2.149 ml, 6.31 mmol) in Toluene (12.61 ml). In a capped vial, the reaction was heated to 110° C. for overnight. LC/MS verified that the vinyl enolate intermediate formed. The reaction was cooled to room temperature, filtered thru a plug of Celite and the filtrate concentrated. The resulting residue was diluted with THF (20 mL) and water (2 mL). The reaction mixture was cooled to 0° C. and N-Bromosuccinimide (1.347 g, 7.57 mmol) was added. The reaction was stirring for 1 hour and warmed to room temperature. The reaction was diluted with ethyl acetate and washed with water. Separated organics, dried with MgSO4, filtered and concentrated. Purified using combiflash using 0% to 20% ethyl acetate in hexanes to afford 2-bromo-1-(4-nitropyridin-2-yl)ethanone (1.1 g, 4.49 mmol, 71.2% yield) as a light purple oil. 1H NMR (CDCl3) δ: 4.81 (s, 2H), 7.24 (m, 1H), 7.80 (m, 1H), 8.66 (m, 1H).

reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Tributyl(1-ethoxyvinyl)tin | 6.31 mmol, 2.149 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | N-Bromosuccinimide | 7.57 mmol, 1.347 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | Toluene | 12.61 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.315 mmol, 0.364 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-bromo-1-(4-nitropyridin-2-yl)ethanone | 4.49 mmol, 1.1 g, 71.2% yield | BrCC(=O)C1=NC=CC(=C1)[N+](=O)[O-] | C7H5BrN2O3
